US06114548
To a rapidly stirred solution of 70% aqueous triflic acid (2.10 g, 0.01 mol) and benzaldehyde (106.1 g, 1.0 mol) in 100 ml toluene was added isoprene (150 cm3, 1.5 mol) over 4 hrs. at 25° C. The mixture was stirred at room temperature for a further 11 hours after which the reaction mixture was quenched by the addition of Polyrad* (2 g) and solid sodium carbonate (5 g). The crude mixture was distilled under reduced pressure to give pure rosyrane (56% yield) as a colorless oil.

reactant | triflic acid | 0.01 mol, 2.10 g | OS(=O)(=O)C(F)(F)F | CHF3O3S
reactant | benzaldehyde | 1.0 mol, 106.1 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | isoprene | 1.5 mol, 150 cm3 | C=CC(C)=C | C5H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | rosyrane | 56% yield | CC1=CCOC(C1)C2=CC=CC=C2 | C12H14O
